US05202312
Triethylamine (3.5 ml) is added to a mixture of histamine dihydrochloride (1.84 g), N-tert-butoxycarbonyl-L-phenylalanine succinimido ester (3.62 g), dimethylformamide (20 ml) and water (5 ml) under ice-cooling and then the mixture is stirred at room temperature for three hours. The reaction mixture is concentrated under reduced pressure to remove solvent and ethyl acetate is added to the residue and then, insoluble materials are filtered off. The filtrate is washed with an aqueous sodium bicarbonate solution and water, dried, and then concentrated to remove solvent. The residue is crystallized with ether to give N-(N-tert-butoxycarbonyl-L-phenylalanyl)histamine (2.5 g). The product (1.79 g) thus obtained is dissolved in 15% hydrogenbromide-acetic acid solution and the solution is stirred at room temperature for 30 minutes. The reaction mixture is concentrated under reduced pressure to give N-(L-phenylalanyl) histamine dihydrobromide (2.1 g). The thus-obtained product (2.1 g) is dissolved in dimethylformamide, and N-tert-butoxycarbonyl-L-phenylalanine succinimido ester (1.81 g) and triethylamine (2.1 ml) are added thereto and then the mixture is stirred overnight. Ethyl acetate is added to the reaction mixture, and insoluble materials are filtered off. The filtrate is washed with an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried, and then concentrated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=9:1) and crystallized with ether to give N-(N-tert-butoxycarbonyl-L-phenylalanyl L-phenylalanyl)histamine (1.88 g) as white crystals. Yield ; 74.3%

reactant | Triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | histamine dihydrochloride | 1.84 g | Cl.Cl.NCCC1=CNC=N1
reactant | N-tert-butoxycarbonyl-L-phenylalanine succinimido ester | 3.62 g | C1(CCC(N1OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O)=O | C18H22N2O6
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | N-(N-tert-butoxycarbonyl-L-phenylalanyl)histamine | 2.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCC1=CNC=N1 | C19H26N4O3
